US06232290B1
A solution of 4-(4′-hydroxyphenyl)benzoic acid (4 g) and 1N sodium hydroxide (41 ml) in dimethyl sulfoxide (40 ml) was heated for 30 minutes at 85° C., then treated with 4-phenoxybutyl bromide (6.42 g) and heating continued for 8 hours. After cooling, the reaction was poured into water and adjusted to pH 2 and the resulting precipitate was collected, washed with water, and dried to give 4-[4′-(4-phenoxybutyloxy) phenyl]benzoic acid (6.7 g).

reactant | 4-(4′-hydroxyphenyl)benzoic acid | 4 g | OC1=CC=C(C=C1)C1=CC=C(C(=O)O)C=C1 | C13H10O3
reactant | sodium hydroxide | 1N, 41 ml | [OH-].[Na+]
reactant | 4-phenoxybutyl bromide | 6.42 g | O(C1=CC=CC=C1)CCCCBr | C10H13BrO
reactant | water | O | H2O
solvent | dimethyl sulfoxide | 40 ml | CS(=O)C | C2H6OS
product | 4-[4′-(4-phenoxybutyloxy) phenyl]benzoic acid | 6.7 g | O(C1=CC=CC=C1)CCCCOC1=CC=C(C=C1)C1=CC=C(C(=O)O)C=C1 | C23H22O4
